US05145970
N-methyl-2-(4-amino-3-tert-butyl-5-methylphenylthio)succinimide
A stirred solution of 1.0 g (5 mmol) of 2-tert-butyl-4-mercapto-6-methylaniline, 0.6 g (5 mmol) of N-methylmaleimide and 0.1 g (1 mmol) of triethylamine in 10 mL of toluene is heated at 50° C. for 18 hours. The solvent is removed in vacuo and the residue is purified by flash chromatography (silica gel, 3:2, heptane:ethyl acetate eluent) followed by recrystallization from a heptane:toluene solvent mixture to give 0.8 g (51%) of the title compound as a white solid melting at 92°-94° C.

reactant | 2-tert-butyl-4-mercapto-6-methylaniline | 5 mmol, 1.0 g | C(C)(C)(C)C1=C(N)C(=CC(=C1)S)C | C11H17NS
reactant | N-methylmaleimide | 5 mmol, 0.6 g | CN1C(C=CC1=O)=O | C5H5NO2
reactant | triethylamine | 1 mmol, 0.1 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-methyl-2-(4-amino-3-tert-butyl-5-methylphenylthio)succinimide | 0.8 g, 51% | CN1C(C(CC1=O)SC1=CC(=C(C(=C1)C)N)C(C)(C)C)=O | C16H22N2O2S
